### PR TITLE
doReplyTransfer_corres

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This solves `doReplyTransfer_corres` while strengthening a few related lemmas.

The spec did need some updating, but I don't there are many significant pieces of work here outside the main resolved sorry.

### CODE REVIEW

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2146,130 +2146,144 @@ lemma replyPush_corres:
...
+abbreviation refills_map_precond where
+  "refills_map_precond start count mx list \<equiv> 0 < count \<and> mx \<le> length list \<and> start < mx"
+
+lemma hd_wrap_slice:
+  "refills_map_precond start count mx list \<Longrightarrow> hd (wrap_slice start count mx list) = list ! start"
+  by (auto simp: wrap_slice_def hd_drop_conv_nth)
+
+lemma hd_refills_map:
+  "refills_map_precond start count mx list
+   \<Longrightarrow> hd (refills_map start count mx list) = refill_map (list ! start)"
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:2243]: This one, too. A lemma that is basically the same as this exists in StateRelation.thy.

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -5881,6 +5919,312 @@ lemma si_blk_makes_runnable':
...
+           apply (wpsimp wp: thread_get_wp')
+          apply (wpsimp wp: threadGet_wp)
+         apply (rule_tac Q="\<lambda>_. tcb_at sender and tcb_at recvr and invs and valid_list and
+                   valid_sched and scheduler_act_not recvr and not_in_release_q recvr and
+                   active_if_bound_sc_tcb_at recvr and st_tcb_at (\<lambda>a. tcb_st_refs_of a = {} \<and> \<not> awaiting_reply a) recvr and
+                   ex_nonz_cap_to recvr and not_queued recvr"
+                in hoare_strengthen_post[rotated])
+          apply (clarsimp split: option.split simp: valid_sched_def invs_def valid_state_def valid_pspace_def
+                                                   pred_tcb_at_def obj_at_def
+                           dest!: idle_no_ex_cap)
```
Comment (mktnk3) [inline proof/refine/ARM/Ipc_R.thy:6189]: nitpick: this looks a bit non-standard. `simp:` should align with `split:` and `dest!:`, I suppose?

**Review by mktnk3 — APPROVED** [review]
It’s great to see another big corres sorry cleared. Thanks, Mitch. Only a few cleanup related comments from me.

File: proof/refine/ARM/KHeap_R.thy [hunk 3]
```diff
@@ -4288,4 +4288,52 @@ global_interpretation set_simple_ko: typ_at_pres "set_simple_ko C ptr ep"
...
+  done
+
+lemma sr_sc_refill_sufficient:
+  "\<lbrakk>sc_relation sc n sc'; std_sc' sc'\<rbrakk> \<Longrightarrow>
+  sufficientRefills x (scRefills sc') (scRefillHead sc') = sc_refill_sufficient x sc"
+  apply (frule (1) sr_sc_refill_capacity[where x=x])
+  apply (clarsimp simp: sufficientRefills_def refill_sufficient_def minBudget_def MIN_BUDGET_def
+                        ARM_H.kernelWCETTicks_def sc_relation_def)
+  done
+
```
Comment (MitchellBuckley) [inline proof/refine/ARM/KHeap_R.thy:4338]: I think this block is an improvement over what existed previously, do you think it can be improved further?

**Comment by MitchellBuckley** [comment]
Some cleanup implemented in the top commit.

File: proof/refine/ARM/Ipc_R.thy [hunk 4]
```diff
@@ -2777,7 +2727,7 @@ lemma getTCBSc_corres:
   done
 
 lemma getScTime_corres:
-  "corres (=) (invs and active_sc_valid_refills and active_sc_tcb_at t) invs'
+  "corres (=) (invs and active_sc_valid_refills and active_sc_tcb_at t) valid_objs'
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:2730]: Nice!

File: proof/refine/ARM/Ipc_R.thy [hunk 5]
```diff
@@ -5881,6 +5838,318 @@ lemma si_blk_makes_runnable':
...
+    apply (rule corres_split [OF getReply_TCB_corres])
+      apply (simp add: maybeM_def)
+      apply (rule corres_option_split [OF refl corres_return_trivial])
+      apply (rename_tac recv_opt receiverOpt recvr)
+      apply (rule_tac Q="\<lambda>s. einvs s \<and> tcb_at sender s \<and> tcb_at recvr s \<and>
+                             reply_tcb_reply_at (\<lambda>xa. xa = Some recvr) reply s" and
+                      Q'="invs'"
+             in corres_split [OF _ _ gts_sp gts_sp' ])
+       apply (rule gts_corres)
+      apply (case_tac rv; simp add: isReply_def)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5874]: It's hard to tell just from the proof script, but my guess is that it might help to have a rename around here.

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -5881,6 +5838,318 @@ lemma si_blk_makes_runnable':
...
+              (* solve remaining corres goals *)
+              apply (rule corres_split [OF gts_corres])
+                apply (rule corres_split [OF threadget_corres[where r="(=)"]])
+                   apply (simp add: tcb_relation_def)
+                  apply (rename_tac scopt scopt')
+                  apply (rule corres_when)
+                   apply (case_tac state; simp add: thread_state_relation_def)
+                  apply (rule corres_assert_opt_assume_l)
+                  apply (rule_tac
+                         Q="valid_sched_action and tcb_at recvr
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5930]: nitpick: indentation of this `rule_tac`

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -5881,6 +5838,318 @@ lemma si_blk_makes_runnable':
...
+                               apply (rule corres_symb_exec_r[OF _ get_sc_sp'], rename_tac sc')
+                                 apply (rule_tac Q="\<lambda>_. sc_badge sc = scBadge sc'" in corres_cross_add_guard[rotated])
+                                  apply (rule_tac corres_gen_asm2)
+                                  apply (rule_tac Q="\<lambda>s. active_sc_valid_refills s \<and>
+                                         is_active_sc (the scopt') s \<and>
+                                         sc_tcb_sc_at (\<lambda>sc. \<exists>t. sc = Some t \<and>
+                                         not_queued t s) (the scopt) s \<and>
+                                         invs s \<and> valid_release_q s \<and> tcb_at recvr s \<and>
+                                         valid_list s \<and> valid_sched_action s \<and>
+                                         scheduler_act_not recvr s \<and> st_tcb_at active recvr s" in corres_guard_imp)
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:5966]: nitpick: indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -5881,6 +5838,318 @@ lemma si_blk_makes_runnable':
...
+                 apply (wpsimp wp: thread_get_wp')
+                apply (wpsimp wp: threadGet_wp)
+               apply (wpsimp wp: gts_wp)
+              apply (wpsimp wp: gts_wp')
+             apply (rule_tac Q="\<lambda>_. tcb_at recvr and valid_sched_action and invs and valid_list
+                                    and valid_release_q and scheduler_act_not recvr
+                                    and active_sc_valid_refills
+                                    and active_if_bound_sc_tcb_at recvr
+                                    and not_queued recvr"
+           in hoare_strengthen_post[rotated])
```
Comment (corlewis) [inline proof/refine/ARM/Ipc_R.thy:6060]: nitpick: indentation (and there's `hoare_post_imp` if you don't want to have to rotate)

File: proof/refine/ARM/KHeap_R.thy [hunk 9]
```diff
@@ -4288,4 +4288,52 @@ global_interpretation set_simple_ko: typ_at_pres "set_simple_ko C ptr ep"
 global_interpretation update_sk_obj_ref: typ_at_pres "update_sk_obj_ref C update ref new"
   unfolding typ_at_pres_def by wpsimp
 
+(* A standard (and active) scheduling context should have the following properties. They follow
+   from valid_sched_context' and sc_valid_refills as the following two lemmas show. *)
```
Comment (corlewis) [inline proof/refine/ARM/KHeap_R.thy:4292]: Should there also be a lemma showing that `0 < scRefillMax sc'` follows from `sc_valid_refills sc`? And then maybe one putting them together and saying that `⟦valid_sched_context' sc' s'; sc_valid_refills sc; sc_relation sc n sc'⟧ ⟹ std_sc' sc'`?

**Review by corlewis — APPROVED** [review]
Great work! All of my comments are cleanup nitpicks.

File: proof/refine/ARM/KHeap_R.thy (hunk 3 above)
Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:4338]: I think these lemmas belong to StateRelation rather than KHeap_R. And, I am basically repeating my comments earlier, but these are essentially duplication of what is already in StateRelation.thy, lines 260-287.

Apart from bundling some of the assumptions as abbreviation, `refill_hd_relation` is the same as `refills_heads_equal`. 

And, there is `refills_heads_equal_valid_sched_context’`, which more ore less gives you the identity of the head refill (both in `r_time` and `r_amount`) under `sc_relation` and `valid_sched_context’`. That effectively gives the equalities in readiness, sufficiency and capacity shown above. What is shown here probably suggests we can strengthen the `refills_heads_equal_valid_sched_context’` lemma.

So, I think we want to clean these up a bit better so that we won't leave both of them in different locations. Otherwise, one day we might end up working on a lemma that involves both, which can be pretty messy.

Comment (MitchellBuckley) [reply proof/refine/ARM/KHeap_R.thy:4338]: Sorry to make you repeat yourself, thanks for the feedback, I'll make those changes.

Comment (mktnk3) [reply proof/refine/ARM/KHeap_R.thy:4338]: Thanks, Mitch. If you can look into consolidating these, that would be great.
